US09079866B2
5-{2′-[(4-Cyclopropylpiperazin-1-yl)sulfonyl]-3-fluorobiphenyl-4-yl}pyrazin-2-amine
The title compound was prepared in a manner similar to that described in Example 448 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and 1-((2-bromophenyl)sulfonyl)-4-cyclopropylpiperazine. MS (ESI): mass calcd. for C23H24FN5O2S, 453.16; m/z found, 454.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.40 (s, 1H), 8.18-8.12 (m, 2H), 7.97 (m, 1H), 7.79-7.74 (m, 1H), 7.68-7.63 (m, 1H), 7.49-7.46 (m, 1H), 7.34-7.30 (m, 2H), 3.28-2.98 (d, J=1.6, 8H), 2.82-2.75 (m, 1H), 0.96-0.85 (m, 4H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 1-((2-bromophenyl)sulfonyl)-4-cyclopropylpiperazine | BrC1=C(C=CC=C1)S(=O)(=O)N1CCN(CC1)C1CC1 | C13H17BrN2O2S
product | 5-{2′-[(4-Cyclopropylpiperazin-1-yl)sulfonyl]-3-fluorobiphenyl-4-yl}pyrazin-2-amine | C1(CC1)N1CCN(CC1)S(=O)(=O)C1=C(C=CC=C1)C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C23H24FN5O2S
